** Name: SimpleTwoStageOpAmp_SimpleOpAmp30_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp30_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=2e-6 W=9e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=3e-6 W=61e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=65e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=299e-6
mDiodeTransistorPmos6 FirstStageYinnerLoad1 FirstStageYinnerLoad1 sourcePmos sourcePmos pmos4 L=7e-6 W=130e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=58e-6
mNormalTransistorNmos8 out ibias SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=272e-6
mNormalTransistorNmos9 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=110e-6
mNormalTransistorNmos10 FirstStageYinnerLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=110e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=65e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=600e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=61e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=372e-6
mNormalTransistorPmos15 outFirstStage FirstStageYinnerLoad1 sourcePmos sourcePmos pmos4 L=7e-6 W=130e-6
mNormalTransistorPmos16 outInputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=284e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp30_8

** Expected Performance Values: 
** Gain: 95 dB
** Power consumption: 3.91801 mW
** Area: 8135 (mu_m)^2
** Transit frequency: 13.9291 MHz
** Transit frequency with error factor: 13.9113 MHz
** Slew rate: 13.1276 V/mu_s
** Phase margin: 60.1606°
** CMRR: 97 dB
** negPSRR: 159 dB
** posPSRR: 95 dB
** VoutMax: 4.70001 V
** VoutMin: 0.790001 V
** VcmMax: 4.54001 V
** VcmMin: 1.32001 V


** Expected Currents: 
** NormalTransistorNmos: 58.0461 muA
** NormalTransistorPmos: -55.2169 muA
** DiodeTransistorPmos: -29.9309 muA
** NormalTransistorPmos: -29.9309 muA
** NormalTransistorNmos: 59.8591 muA
** DiodeTransistorNmos: 59.8581 muA
** NormalTransistorNmos: 29.9301 muA
** NormalTransistorNmos: 29.9301 muA
** NormalTransistorNmos: 600.478 muA
** NormalTransistorNmos: 600.477 muA
** NormalTransistorPmos: -600.477 muA
** DiodeTransistorNmos: 55.2161 muA
** NormalTransistorNmos: 55.2161 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -58.0469 muA


** Expected Voltages: 
** ibias: 1.125  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX0: 4.25501  V
** out: 2.5  V
** outFirstStage: 4.13401  V
** outInputVoltageBiasXXnXX1: 1.17001  V
** outSourceVoltageBiasXXnXX1: 0.585001  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerLoad1: 4.13501  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.491001  V
** inner: 0.585001  V


.END