** Name: SimpleTwoStageOpAmp_SimpleOpAmp33_10

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp33_10 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=5e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=93e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=32e-6
mDiodeTransistorPmos5 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=6e-6 W=508e-6
mNormalTransistorNmos6 out ibias sourceNmos sourceNmos nmos4 L=3e-6 W=493e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mNormalTransistorNmos8 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=36e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=14e-6
mNormalTransistorNmos10 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=36e-6
mNormalTransistorNmos11 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=35e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=10e-6 W=202e-6
mNormalTransistorPmos13 out inputVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos14 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=2e-6 W=48e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=195e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=6e-6 W=508e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=518e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 5.20001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp33_10

** Expected Performance Values: 
** Gain: 103 dB
** Power consumption: 6.41401 mW
** Area: 14972 (mu_m)^2
** Transit frequency: 13.9391 MHz
** Transit frequency with error factor: 13.9337 MHz
** Slew rate: 13.1471 V/mu_s
** Phase margin: 60.1606°
** CMRR: 110 dB
** negPSRR: 110 dB
** posPSRR: 99 dB
** VoutMax: 4.25 V
** VoutMin: 0.260001 V
** VcmMax: 4.41001 V
** VcmMin: 1.42001 V


** Expected Currents: 
** NormalTransistorNmos: 27.4671 muA
** NormalTransistorNmos: 30.0221 muA
** NormalTransistorPmos: -168.537 muA
** DiodeTransistorPmos: -34.3339 muA
** NormalTransistorPmos: -34.3339 muA
** NormalTransistorPmos: -34.3339 muA
** NormalTransistorNmos: 68.6661 muA
** NormalTransistorNmos: 68.6671 muA
** NormalTransistorNmos: 34.3331 muA
** NormalTransistorNmos: 34.3331 muA
** NormalTransistorNmos: 978.111 muA
** NormalTransistorPmos: -978.11 muA
** NormalTransistorPmos: -978.111 muA
** DiodeTransistorNmos: 168.538 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -27.4679 muA
** DiodeTransistorPmos: -30.0229 muA


** Expected Voltages: 
** ibias: 0.670001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.11101  V
** outVoltageBiasXXnXX1: 0.870001  V
** outVoltageBiasXXpXX0: 3.74001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.28501  V
** innerStageBias: 0.265001  V
** innerTransistorStack2Load1: 4.53201  V
** sourceTransconductance: 1.94501  V
** innerTransconductance: 4.67501  V


.END