** Name: SimpleTwoStageOpAmp_SimpleOpAmp33_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp33_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=11e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=45e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=71e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=189e-6
mDiodeTransistorPmos5 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=7e-6 W=53e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=199e-6
mNormalTransistorNmos7 out ibias sourceNmos sourceNmos nmos4 L=6e-6 W=600e-6
mNormalTransistorNmos8 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=53e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=473e-6
mNormalTransistorNmos10 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=53e-6
mNormalTransistorNmos11 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=75e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=8e-6 W=280e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=515e-6
mNormalTransistorPmos14 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=4e-6 W=333e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=35e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=7e-6 W=53e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp33_7

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 6.52901 mW
** Area: 14611 (mu_m)^2
** Transit frequency: 15.4501 MHz
** Transit frequency with error factor: 15.4407 MHz
** Slew rate: 14.5608 V/mu_s
** Phase margin: 60.1606°
** CMRR: 99 dB
** negPSRR: 114 dB
** posPSRR: 104 dB
** VoutMax: 4.76001 V
** VoutMin: 0.25 V
** VcmMax: 4.19001 V
** VcmMin: 1.36001 V


** Expected Currents: 
** NormalTransistorNmos: 422.92 muA
** NormalTransistorNmos: 180.222 muA
** NormalTransistorPmos: -78.1139 muA
** DiodeTransistorPmos: -33.6499 muA
** NormalTransistorPmos: -33.6499 muA
** NormalTransistorPmos: -33.6499 muA
** NormalTransistorNmos: 67.2971 muA
** NormalTransistorNmos: 67.2961 muA
** NormalTransistorNmos: 33.6491 muA
** NormalTransistorNmos: 33.6491 muA
** NormalTransistorNmos: 547.31 muA
** NormalTransistorPmos: -547.309 muA
** DiodeTransistorNmos: 78.1131 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -422.919 muA
** DiodeTransistorPmos: -180.221 muA


** Expected Voltages: 
** ibias: 0.658001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.19101  V
** outVoltageBiasXXnXX1: 0.808001  V
** outVoltageBiasXXpXX0: 3.82101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 3.93801  V
** innerStageBias: 0.253001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.94501  V


.END