** Name: SimpleTwoStageOpAmp_SimpleOpAmp33_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp33_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=9e-6 W=23e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=13e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=394e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=9e-6 W=47e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=20e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=9e-6 W=9e-6
mDiodeTransistorPmos7 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=241e-6
mNormalTransistorNmos8 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=394e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=9e-6 W=317e-6
mNormalTransistorNmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=19e-6
mNormalTransistorNmos11 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=9e-6 W=44e-6
mNormalTransistorNmos12 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=19e-6
mNormalTransistorNmos13 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=9e-6 W=600e-6
mNormalTransistorNmos14 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=9e-6 W=208e-6
mNormalTransistorNmos15 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=13e-6
mNormalTransistorPmos16 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=469e-6
mNormalTransistorPmos17 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=3e-6 W=377e-6
mNormalTransistorPmos18 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=9e-6 W=28e-6
mNormalTransistorPmos19 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=241e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp33_9

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 5.63601 mW
** Area: 14998 (mu_m)^2
** Transit frequency: 23.1411 MHz
** Transit frequency with error factor: 23.1129 MHz
** Slew rate: 41.0584 V/mu_s
** Phase margin: 60.1606°
** CMRR: 103 dB
** negPSRR: 104 dB
** posPSRR: 96 dB
** VoutMax: 4.68001 V
** VoutMin: 0.730001 V
** VcmMax: 4.5 V
** VcmMin: 1.5 V


** Expected Currents: 
** NormalTransistorNmos: 9.31201 muA
** NormalTransistorNmos: 67.6881 muA
** NormalTransistorPmos: -28.6689 muA
** DiodeTransistorPmos: -64.1299 muA
** NormalTransistorPmos: -64.1299 muA
** NormalTransistorPmos: -64.1299 muA
** NormalTransistorNmos: 128.258 muA
** NormalTransistorNmos: 128.257 muA
** NormalTransistorNmos: 64.1291 muA
** NormalTransistorNmos: 64.1291 muA
** NormalTransistorNmos: 883.216 muA
** DiodeTransistorNmos: 883.215 muA
** NormalTransistorPmos: -883.215 muA
** DiodeTransistorNmos: 28.6681 muA
** NormalTransistorNmos: 28.6671 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -9.31299 muA
** DiodeTransistorPmos: -67.6889 muA


** Expected Voltages: 
** ibias: 1.17401  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.11301  V
** outInputVoltageBiasXXnXX1: 1.13401  V
** outSourceVoltageBiasXXnXX1: 0.567001  V
** outSourceVoltageBiasXXnXX2: 0.555001  V
** outVoltageBiasXXpXX0: 3.71501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.26301  V
** innerStageBias: 0.512001  V
** innerTransistorStack2Load1: 4.41901  V
** sourceTransconductance: 1.81201  V
** inner: 0.567001  V


.END