** Name: SimpleTwoStageOpAmp_SimpleOpAmp34_12

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp34_12 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX2Yinner VoltageBiasXXnXX2Yinner nmos4 L=2e-6 W=9e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=5e-6 W=286e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=70e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=588e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=454e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=34e-6
mDiodeTransistorPmos7 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=6e-6 W=68e-6
mNormalTransistorNmos8 out ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=2e-6 W=588e-6
mNormalTransistorNmos9 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=23e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=261e-6
mNormalTransistorNmos11 outVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=313e-6
mNormalTransistorNmos12 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=23e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=70e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=286e-6
mNormalTransistorNmos15 VoltageBiasXXnXX2Yinner outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=9e-6
mNormalTransistorPmos16 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=155e-6
mNormalTransistorPmos17 outFirstStage outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=10e-6
mNormalTransistorPmos18 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=341e-6
mNormalTransistorPmos19 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=6e-6 W=68e-6
mNormalTransistorPmos20 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=511e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp34_12

** Expected Performance Values: 
** Gain: 140 dB
** Power consumption: 7.83101 mW
** Area: 12781 (mu_m)^2
** Transit frequency: 15.7931 MHz
** Transit frequency with error factor: 15.7815 MHz
** Slew rate: 23.3462 V/mu_s
** Phase margin: 64.7443°
** CMRR: 98 dB
** negPSRR: 110 dB
** posPSRR: 94 dB
** VoutMax: 4.25 V
** VoutMin: 0.730001 V
** VcmMax: 4.09001 V
** VcmMin: 1.47001 V


** Expected Currents: 
** NormalTransistorNmos: 292.842 muA
** NormalTransistorNmos: 345.215 muA
** NormalTransistorPmos: -217.501 muA
** DiodeTransistorPmos: -26.9449 muA
** NormalTransistorPmos: -26.9449 muA
** NormalTransistorPmos: -26.9449 muA
** NormalTransistorNmos: 53.8871 muA
** DiodeTransistorNmos: 53.8861 muA
** NormalTransistorNmos: 26.9441 muA
** NormalTransistorNmos: 26.9441 muA
** NormalTransistorNmos: 646.671 muA
** DiodeTransistorNmos: 646.672 muA
** NormalTransistorPmos: -646.67 muA
** NormalTransistorPmos: -646.671 muA
** DiodeTransistorNmos: 217.502 muA
** NormalTransistorNmos: 217.502 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -292.841 muA
** DiodeTransistorPmos: -345.214 muA


** Expected Voltages: 
** ibias: 1.13301  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.16901  V
** outInputVoltageBiasXXnXX1: 1.23601  V
** outSourceVoltageBiasXXnXX1: 0.618001  V
** outSourceVoltageBiasXXnXX2: 0.567001  V
** outVoltageBiasXXpXX0: 4.01201  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.07301  V
** innerTransistorStack2Load1: 4.63701  V
** sourceTransconductance: 1.85901  V
** innerTransconductance: 4.73101  V
** inner: 0.618001  V
** inner: 0.566001  V


.END